US05064819
A suspension of 12 g of oil-free sodium hydride in 300 ml of absoluted tetrahydrofuran under an inert atmosphere is treated with a solution of 103.5 g of 95% ethyl diethoxymethylphosphinate in 100 ml of absolute tetrahydrofuran at such a rate so as to maintain the temperature at or just below 20° C. After the addition is complete, the suspension is stirred for 1 hour at room temperature and then cooled to approximately 10° C. before addition of 85.5 g of benzylbromide, maintaining the temperature below 15° C. Finally, the white suspension is stirred for 20 hours at room temperature. Water is then added and the tetrahydrofuran layer is separated. The aqueous layer is extracted with dichloromethane and the combined organic layers are dried and concentrated in vacuo. Distillation of the residue in high vacuum affords ethyl diethoxymethyl(benzyl)phosphinate as a colourless oil of b.p. 105-125 (10-2 mbar). 'H-NMR (CDCl3): δ (ppm)=7.29 (5 H, m, Ph), 4.48 (1 H d, 5=9 HZ, CHP), 4.08 (2 H, q, CH2OP), 3.83 (2 H, m, CH2OC), 3.66 (2 H, m, CH2OC), 3.21 (2 H, ABq, d, 5=15×6 HZ, CH2P), 1,23 (9 H, m, 3×CH3).

reactant | sodium hydride | 12 g | [H-].[Na+]
reactant | ethyl diethoxymethylphosphinate | 103.5 g | C(C)OC(OCC)P(OCC)=O | C7H17O4P
reactant | benzylbromide | 85.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl diethoxymethyl(benzyl)phosphinate | C(C)OC(OCC)P(OCC)(=O)CC1=CC=CC=C1 | C14H23O4P
